US08030311B2
Step 45.1: 4-(5-Amino-3-tert-butyl-pyrazol-1-yl)-benzoic acid
To a suspension of 2.4 g (16 mmol) 4-hydrazino-benzoic acid in 12 mL toluene, 2.0 g of pivaloyl acetonitrile are added at rt. The suspension is heated to and kept under reflux for 12 h. After completion, the resulting reaction mixture is allowed to cool to rt. The precipitated product is isolated by filtration, washed with cold toluene and dried under high vacuum. [M+1]+=260.

reactant | 4-hydrazino-benzoic acid | 16 mmol, 2.4 g | N(N)C1=CC=C(C(=O)O)C=C1 | C7H8N2O2
reactant | pivaloyl acetonitrile | 2.0 g | C(C(C)(C)C)(=O)CC#N | C7H11NO
solvent | toluene | 12 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(5-Amino-3-tert-butyl-pyrazol-1-yl)-benzoic acid | NC1=CC(=NN1C1=CC=C(C(=O)O)C=C1)C(C)(C)C | C14H17N3O2
